US05604231
1,1 -Dibromo-2-(3-pyridinyl)-ethylene (X)
Tetrabromomethane (24.82 g, 0.747 mole) and triphenylphosphine (39.17 g, 0.149 mole) were stirred together in dry methylene chloride (100 mL) for 5 min. at 0° C. under a nitrogen atmosphere. To this mixture was added dropwise pyridine 3-carboxaldehyde (4 g, 0.0373 mole). The solution was then stirred for 45 min. at ambient temperature. The reaction mixture was extracted with aqueous 6N hydrochloric acid (3×25 mL), the aqueous layer basified with solid sodium bicarbonate to pH 8-9 and extracted with chloroform (4×25 mL). The combined organic liquours were dried over anhydrous sodium sulfate, filtered and concentrated on a rotary evaporator to give a dark colored syrup. The crude product was chromatographed on silica gel (70-230 mesh) with chloroform:methanol (95:5) as eluant, to afford a light yellow solid (5.0 g, 70%) which rapidly turned dark on standing.

reactant | Tetrabromomethane | 0.747 mole, 24.82 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.149 mole, 39.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine 3-carboxaldehyde | 0.0373 mole, 4 g | N1=CC(=CC=C1)C=O | C6H5NO
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1,1 -Dibromo-2-(3-pyridinyl)-ethylene | 5.0 g, 70% | BrC(=CC=1C=NC=CC1)Br | C7H5Br2N
